datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([O:5][O:6][H:19])([H:17])[H:18])[O:7][O:8])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([O:5][O:6][H:19])([H:17])[H:18])[O:7][O:8][H:9])([H:12])[H:13])([H:10])[H:11],91.6296
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:11][C:20]([C:19]([H:22])([H:23])[H:24])([C:21]([H:26])([H:27])[H:28])[H:25],50.208
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7].[C:15]([C:16](=[C:17]([H:21])[H:22])[H:20])([H:18])[H:19]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[C:15]([C:16](=[C:17]([H:21])[H:22])[H:20])([H:18])[H:19])[H:8])([H:5])([H:6])[H:7],58.6597
[C:0]([C:1](=[C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6]>>[C:0]([C:1](=[C:2][C:3](=[C:4]([H:10])[H:11])[H:9])[H:7])([H:5])([H:6])[H:8],277.467
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[C:11](=[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[C:15](=[C:16]([H:24])[H:25])[H:23])[H:19])([H:17])[H:18]>>[C:0](=[C:1]([C:2]=[C:3]([C:4]([H:8])([H:9])[H:10])[C:13]([C:12](=[C:11]([H:17])[H:18])[H:19])([C:14]([H:20])([H:21])[H:22])[C:15](=[C:16]([H:24])[H:25])[H:23])[H:7])([H:5])[H:6],69.6218
[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7](=[C:8]([H:18])[H:19])[H:17])[H:13])([H:11])[H:12])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])[C:5]1([C:6]([H:14])([H:15])[H:16])[C:7](=[C:8]([H:18])[H:19])[H:17])[H:9],165.603
[C:0]([C:1]1=[C:2]([H:13])[c:3]2[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]2[C:9]1([H:18])[H:19])([H:10])([H:11])[H:12].[H:20]>>[C:0]([C:1]1([H:20])[C:2]([H:13])[c:3]2[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]2[C:9]1([H:18])[H:19])([H:10])([H:11])[H:12],10.054152
[C:4]([C:5]([C:6]([C:7]([O:8][H:17])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10].[O:0]([O:1][H:3])[H:2]>>[H:2][C:4]([C:5]([C:6]([C:7]([O:8][H:17])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10].[O:0][O:1][H:3],3.138
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:5])[H:6].[O:15][O:16][H:17]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([C:4]([H:12])([H:13])[H:14])[H:11])([H:5])[H:6].[H:10][O:15][O:16][H:17],44.05752
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8]=[S:9])([H:10])([H:11])[H:12]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:8]([C:7]([H:10])([H:11])[H:12])=[S:9],48.9528
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16]([H:22])([H:23])[H:24])[C:17](=[C:18]([H:26])[H:27])[H:25])[H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[C:15]([C:14](=[C:13]([H:19])[H:20])[H:21])([C:16]([H:22])([H:23])[H:24])[C:17](=[C:18]([H:26])[H:27])[H:25])([H:5])[H:6],68.9942
[O:0]=[S:1](=[O:2])[O:3][H:4].[O:5][H:6]>>[H:4][O:5][H:6].[O:0]=[S:1](=[O:2])=[O:3],0.0
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[C:12](=[S:13])[H:14]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[S:3][H:11])([H:4])([H:5])[H:6].[H:7][C:12](=[S:13])[H:14],40.1664
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[C:5]([C:6](=[C:7]([C:8]([C:9]([H:22])([H:23])[H:24])[H:21])[H:20])[H:19])([H:17])[H:18])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([C:4]([H:14])([H:15])[H:16])[C:5]([H:17])([H:18])[C:6]([H:19])=[C:7]([H:20])[C:8]1([C:9]([H:22])([H:23])[H:24])[H:21])[H:12])([H:10])[H:11],102.173
[C:0](=[C:1]=[C:2]=[C:3]([C:4](=[C:5]=[C:6]([H:10])[H:11])[H:9])[H:8])[H:7]>>[C:0]1([H:7])=[C:1]=[C:2]=[C:3]([H:8])[C:4]([H:9])=[C:5][C:6]1([H:10])[H:11],142.8836
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7]([S:8][H:12])([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:12])[H:4].[C:7]([S:8])([H:9])([H:10])[H:11],28.4512
[N:0]([N:1]([H:4])[H:5])([H:2])[H:3]>>[N:0]([H:2])[H:3].[N:1]([H:4])[H:5],278.50796
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11]([C:12]([C:13](=[S:14])[H:19])[H:18])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:12]([C:11]([H:15])([H:16])[H:17])([C:13](=[S:14])[H:19])[H:18],35.1456
[C:0](=[C:1]1[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]1[H:11])([H:6])[H:7].[C:12]([H:13])([H:14])[H:15]>>[C:0]([C:1]1([C:12]([H:13])([H:14])[H:15])[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]1[H:11])([H:6])[H:7],25.5224
